US04616086
n-Butyl 4-(1-methanesulphonylpiperazin-4-yl)-benzoate
To a mixture of 27 g. (0.1 mole) n-butyl 4-(piperazin-1-yl)-benzoate hydrochloride and 270 ml. anhydrous pyridine are added at 5°-10° C. 11.4 g. (0.1 mole) methanesulphonyl chloride. The reaction mixture is left to stand overnight at 20° C. and then poured into 250 ml. ice water and extracted twice with methylene chloride. The extracts are dried with anhydrous sodium sulphate and evaporated in a vacuum. After trituration of the residue with ligroin, 17.1 g. (55% of theory) of the desired product are obtained as yellow crystals; m.p. 145°-150° C.

reactant | n-butyl 4-(piperazin-1-yl)-benzoate hydrochloride | 0.1 mole | Cl.N1(CCNCC1)C1=CC=C(C(=O)OCCCC)C=C1
reactant | methanesulphonyl chloride | 0.1 mole | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | n-Butyl 4-(1-methanesulphonylpiperazin-4-yl)-benzoate | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C(=O)OCCCC)C=C1 | C16H24N2O4S
